US03953415
A solution of 4.0 g. (3.48 mmoles) of Z-25-32-OtBu in 140 ml. of methanol is hydrogenated in the presence of 0.5 g. of palladium-on-carbon. When the reaction terminates, the catalyst is filtered off; the filtrate is evaporated to dryness; the residue is triturated with ether and filtered off. 3.4 g. (96 %) of H-25-32-OtBu are obtained. M.p.: 188°-190°C; Rf4 = 0.5; [α]D = -6.6° (c = 0.89, in DMF).

reactant | Z-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 3.48 mmoles | N([C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C53H83N9O19
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | H-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-OtBu | 96 % | N[C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC(C)(C)C | C45H77N9O17
